US06762199B2
Ethyl 3-[7-acetylamino-indan-4-yl]-but-2-enoate
A mixture of 4-acetylamino-7-bromoindane (2.8 g, prepared according to the method of A. Courtin, Helv. Chim. Acta 1980, 63(8), pages 2280-2286), ethyl crotonate (2.51 g), palladium diacetate (150 mg), tri-ortho-tolyl phosphine (450 mg) and tributylamine (10 mL) in dimethylformamide (30 mL) was stirred at 120° C. for 4 hours under a nitrogen atmosphere. The mixture was cooled to room temperature, then allowed to stand for 48 hours, then partitioned between ethyl acetate (500 mL) and aqueous hydrochloric acid (300 mL, 1M). The organic phase was washed with 5% aqueous sodium bicarbonate (150 mL) and then filtered. The clear yellow filtrate was dried over sodium sulfate then evaporated. The residue was subjected to normal phase HPLC on silica under gradient elution conditions using ethyl acetate, heptane and methanol mixtures (from 20:80:1 to 90/10/1, v/v/v) to give the title compound (1.9 g).

reactant | 4-acetylamino-7-bromoindane | C(C)(=O)NC1=C2CCCC2=C(C=C1)Br | C11H12BrNO
reactant | ethyl crotonate | 2.51 g | C(\C=C\C)(=O)OCC | C6H10O2
reactant | tri-ortho-tolyl phosphine | 450 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tributylamine | 10 mL | C(CCC)N(CCCC)CCCC | C12H27N
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
catalyst | palladium diacetate | 150 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Ethyl 3-[7-acetylamino-indan-4-yl]-but-2-enoate | 1.9 g | C(C)(=O)NC=1C=CC(=C2CCCC12)C(=CC(=O)OCC)C | C17H21NO3
